US04792567
A stirred mixture of 8.0 grams (0.027 mole) of 2-phenyl-1-(5-phenylthien-2-yl)-1-propanol in 100 mL of concentrated hydrochloric acid was heated at reflux for 1.5 hours. The mixture was cooled and extracted with chloroform. The extract was washed with an aqueous solution saturated with sodium chloride and dried over anhydrous magnesium sulfate. The mixture was filtered, and the filtrate was evaporated under reduced pressure yielding a solid residue. Half of this residue was purified by column chromatography on silica gel, eluting with toluene:n-hexane (5:95). The remainder of the residue was purified by recrystallization from toluene and ethanol to yield a total of 4.0 grams of 2-phenyl-1-(5-phenylthien-2-yl)-1-propene as a solid, m.p. 115°-25° C.

reactant | 2-phenyl-1-(5-phenylthien-2-yl)-1-propanol | 0.027 mole, 8.0 grams | C1(=CC=CC=C1)C(C(O)C=1SC(=CC1)C1=CC=CC=C1)C | C19H18OS
solvent | hydrochloric acid | 100 mL | Cl | ClH
product | 2-phenyl-1-(5-phenylthien-2-yl)-1-propene | 4.0 grams | C1(=CC=CC=C1)C(=CC=1SC(=CC1)C1=CC=CC=C1)C | C19H16S
